US08669266B2
(ii) 4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carboxylic acid methyl ester
To a solution of 1.00 g 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid methyl ester hydrochloride and 0.83 g benzyl-L-lactate in 30 ml THF were added 1.81 g triphenylphosphine and 1.20 g diethylazodicarboxylate. After 2 h LCMS indicated complete conversion and water was added to the reaction mixture which was subsequently extracted with ethyl acetate. The residue obtained after evaporation of the solvent was purified by flash chromatography on silica using an ethyl acetate/heptane gradient. Yield: 1.80 g

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid methyl ester hydrochloride | 1.00 g | Cl.COC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C
reactant | benzyl-L-lactate | 0.83 g | C(C1=CC=CC=C1)OC([C@@H](O)C)=O | C10H12O3
reactant | triphenylphosphine | 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.20 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@H](C)C(=O)OCC1=CC=CC=C1)C | C22H21NO5
